US07176310B1
6. [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid benzyl ester
To a solution of 2-methanesulfinylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide (173 mg, contaminated with 10% sulfone, 0.62 mmol) in THF (6 mL) was added benzyl glycolate (128 μL, 0.90 mmol) followed by potassium tert-butoxide (1 M in THF, 0.3 mL, 0.3 mmol) and DBU (139 μL, 0.93 mmol). The solution was stirred for 5 h, diluted with 50% ethyl acetate/hexane, and passed through a plug of SiO2 followed by washing with 40% ethyl acetate/hexane. The filtrate was concentrated in vacuo, and the residue flash-chromatographed on SiO2 with 35% ethyl acetate/hexane to afford 71.5 mg (30% yield) of the titled product as a white solid. ESI-MS m/z 382 (MH+), 380 (M−H)−.

reactant | 2-methanesulfinylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 0.62 mmol, 173 mg | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)S(=O)C | C12H10FN3O2S
reactant | benzyl glycolate | 0.90 mmol, 128 μL | C(CO)(=O)OCC1=CC=CC=C1 | C9H10O3
reactant | potassium tert-butoxide | 0.3 mmol, 1 M, 0.3 mL | CC(C)([O-])C.[K+]
reactant | DBU | 0.93 mmol, 139 μL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid benzyl ester | 71.5 mg, 30% yield | C(C1=CC=CC=C1)OC(COC1=NC=C(C=N1)C(NC1=CC=C(C=C1)F)=O)=O | C20H16FN3O4
